US05912342
2-t-butoxycarbonyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline
16.2 mL 2 L-1 aqueous sodium hydroxyde and 3.6 g (16.4 mmol) di-tert-butyl dicarbonate were added to a solution of 5-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (3 g, 16.2 mmol) in 50% (v/v) aqueous acetonitrile. The reaction mixture was left overnight and then diluted with ethyl acetate. The organic phase was separated, washed with aqueous sodium chloride, dried over Na2SO4, and evaporated to dryness. The product was purified by silicagel chromatography (System D). Yield 3.8 g, 95%. 1H NMR (CDCl3, 500 MHz): 7.04 (1H, t, 7.8 Hz), 6.69 (1H, d, 7.6 Hz), 6.64 (1H, d, 7.9 Hz), 5.18 (1H, s), 4.55 (2H, s), 3.66 (2H, t, 5.6 Hz), 2.74 (2H, t, 6.0 Hz), 1.49 (9H, s).

reactant | sodium | [Na] | Na
reactant | di-tert-butyl dicarbonate | 16.4 mmol, 3.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 16.2 mmol, 3 g | Cl.OC1=C2CCNCC2=CC=C1
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-t-butoxycarbonyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)O | C14H19NO3
